US05521170
A mixture of 5-methyl-2-nitroaniline (3.00 g), ethyl bromopropionate (5.35 g) and potassium carbonate (8.18 g) in N,N-dimethylformamide (20 ml) was stirred at 150° C. for 4 hours and the suspension was cooled to ambient temperature. After being filtered, the filtrate was diluted with ethyl acetate and the solution was washed successively with saturated sodium bicarbonate aqueous solution and brine. Drying over magnesium sulfate, filtering and the removal of solvents afforded a crude product. The crude product was triturated with diethyl ether-n-hexane (1:1) to give N-(2-ethoxycarbonylethyl)-5-methyl-2-nitroaniline (2.83 g) as a yellow prisms.

reactant | 5-methyl-2-nitroaniline | 3.00 g | CC=1C=CC(=C(N)C1)[N+](=O)[O-] | C7H8N2O2
reactant | ethyl bromopropionate | 5.35 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 8.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(2-ethoxycarbonylethyl)-5-methyl-2-nitroaniline | 2.83 g | C(C)OC(=O)CCNC1=C(C=CC(=C1)C)[N+](=O)[O-] | C12H16N2O4
